### PR TITLE
Measurable type for normed modules (generalizes PR#2016)

### PR DESCRIPTION
**Pull request by Brixfoly**
##### Motivation for this change
fyi @affeldt-aist @hoheinzollern 

##### Checklist

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/lebesgue_stieltjes_measure.v [hunk 1]
```diff
@@ -465,85 +465,129 @@ Qed.
 End rgenopensets.
 End RGenOpenSets.
 
+(* Could be moved elsewhere and generalized to metric spaces *)
+Section normed_lemmas.
+Context {R : realType} {N : normedModType R}.
+
+Lemma set1_bigcap_ball (x : N) : [set x] = \bigcap_n ball x n.+1%:R^-1.
```
Comment (affeldt-aist) [inline theories/lebesgue_stieltjes_measure.v:472]: Maybe move to `normed_module.v`.

File: theories/lebesgue_stieltjes_measure.v [hunk 2]
```diff
@@ -465,85 +465,129 @@ Qed.
...
-Notation "R .-open" := (sigma_display (@open R)) : measure_display_scope.
-Notation "R .-open.-measurable" := (measurable : set_system (@open_type R)) :
+Notation "N .-open" := (sigma_display (@open N)) : measure_display_scope.
+Notation "N .-open.-measurable" := (measurable : set_system (@open_type _ N)) :
   classical_set_scope.
 
-Module MeasurableRopen.
-Section measurableRopen.
-Context {R : realType}.
+Module MeasurableOpen.
```
Comment (affeldt-aist) [inline theories/lebesgue_stieltjes_measure.v:512]: Rename to `MeasurableNormedModuleOpen`.

File: theories/lebesgue_stieltjes_measure.v [hunk 3]
```diff
@@ -465,85 +465,129 @@ Qed.
...
+Section measurableOpen.
+Context {R : realType} {N : normedModType R}.
 
-Definition measurableTypeR := g_sigma_algebraType (@open R).
+Definition measurableTypeO := g_sigma_algebraType (@open N).
```
Comment (affeldt-aist) [inline theories/lebesgue_stieltjes_measure.v:516]: `measurableTypeNormedModule`

File: theories/lebesgue_stieltjes_measure.v [hunk 4]
```diff
@@ -465,85 +465,129 @@ Qed.
...
 
-Definition lebesgue_display : measure_display := R.-open.
+Definition borel_display : measure_display := N.-open.
 
-Definition measurableR : set_system R := R.-open.-measurable.
+Definition measurableO : set_system N := N.-open.-measurable.
```
Comment (affeldt-aist) [inline theories/lebesgue_stieltjes_measure.v:520]: `measurableNormedModule`

File: theories/lebesgue_stieltjes_measure.v [hunk 5]
```diff
@@ -465,85 +465,129 @@ Qed.
...
-End measurableRopen.
-Arguments measurableTypeR : clear implicits.
+End measurableOpen.
+Arguments measurableTypeO : clear implicits.
 #[global]
 Hint Extern 0 (measurable (_ @^-1` [set _])) =>
   solve [apply: measurable_funPTI; exact: measurable_set1] : core.
 #[global]
 Hint Extern 0 (measurable [set _]) => solve [apply: measurable_set1] : core.
-#[global]
```
Comment (affeldt-aist) [inline theories/lebesgue_stieltjes_measure.v:534]: Try to restore.

File: theories/lebesgue_stieltjes_measure.v [hunk 6]
```diff
@@ -465,85 +465,129 @@ Qed.
...
+  {nT : normedModType rT} (f : {mfun aT >-> nT}) D (z : nT) :
+  measurable D -> measurable (D `&` f @^-1` [set z]).
 Proof. by move=> /(measurable_funP f); exact. Qed.
+
 #[deprecated(since="mathcomp-analysis 1.13.0", use=measurable_funP1)]
 Notation measurable_sfun_inP := measurable_funP1 (only parsing).
 #[global] Hint Extern 0 (measurable (_ `&` _ @^-1` [set _])) =>
   solve [apply: measurable_funP1; assumption] : core.
 
+Section measurableReal.
```
Comment (affeldt-aist) [inline theories/lebesgue_stieltjes_measure.v:557]: TODO: check whether we can get rid of this
